US05650424
1-(4-Cyano-phenyl)-3-[4-(2-methoxycarbonyl-ethyl)-cyclohexyl]-imidazolidin-2-one
2-64=cyano-phenyl)-5-[4-(2-methoxycarbonyl-ethyl)-phenyl]-3,4-dihydro-2H,5H-1,2,5-thiadiazole-1,1-dioxide 4-Fluoro-benzonitrile and sodium hydride in N-methyl-pyrrolidone were used without copper salts.

reactant | 5-[4-(2-methoxycarbonyl-ethyl)-phenyl]-3,4-dihydro-2H,5H-1,2,5-thiadiazole-1,1-dioxide 4-Fluoro-benzonitrile | FC1=CC=C(C#N)C=C1.COC(=O)CCC1=CC=C(C=C1)N1CCNS1(=O)=O
reactant | sodium hydride | [H-].[Na+]
reactant | N-methyl-pyrrolidone | CN1C(CCC1)=O | C5H9NO
catalyst | copper | [Cu] | Cu
product | 1-(4-Cyano-phenyl)-3-[4-(2-methoxycarbonyl-ethyl)-cyclohexyl]-imidazolidin-2-one | C(#N)C1=CC=C(C=C1)N1C(N(CC1)C1CCC(CC1)CCC(=O)OC)=O | C20H25N3O3
